### PR TITLE
[Merged by Bors] - feat(Order): Add simp lemma for `IsRelUpperSet` and `IsRelLowerSet`

### PR DESCRIPTION
**Pull request by DavidLedvinka**
This is useful in scenarios when `simp` can simplify the relation to true.

### CODE REVIEW

File: Mathlib/Order/UpperLower/Relative.lean [hunk 1]
```diff
@@ -26,6 +26,14 @@ section LE
 
 variable [LE α]
 
+@[simp] lemma isRelUpperSet_true_iff_isUpperSet :
+    IsRelUpperSet s (fun _ ↦ True) ↔ IsUpperSet s := by
+  simp [IsUpperSet, IsRelUpperSet]; grind
```
Comment (eric-wieser) [inline Mathlib/Order/UpperLower/Relative.lean]: Does
```suggestion
  grind [IsUpperSet, IsRelUpperSet]
```
work?

Comment (DavidLedvinka) [reply Mathlib/Order/UpperLower/Relative.lean]: huh, I thought I tried this. thanks!

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
